US06964974B2
In analogy to example 1.2a, 1.5 and 1.3, reaction of 4-Hydroxy-piperidine-1-carboxylic-acid tert-butyl ester and 1,6-dibromohexane, N-methylcyclopropylamine followed by treatment with 4N HCl yielded Cyclopropyl-methyl-[6-(piperidin-4-yloxy)-hexyl]-amine dihydrochloride, MS: 255 (MH+).

reactant | 4-Hydroxy-piperidine-1-carboxylic-acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | N-methylcyclopropylamine | CNC1CC1 | C4H9N
reactant | HCl | 4N | Cl | ClH
product | Cyclopropyl-methyl-[6-(piperidin-4-yloxy)-hexyl]-amine dihydrochloride | Cl.Cl.C1(CC1)N(CCCCCCOC1CCNCC1)C | InChI=1S/C15H30N2O.2ClH/c1-17(14-6-7-14)12-4-2-3-5-13-18-15-8-10-16-11-9-15;;/h14-16H,2-13H2,1H3;2*1H
